US04145546
2-[2-(5-Methyl-4-imidazolylmethylthio)ethylamino]-5-(4-chlorobenzyl)-6-methyl-4-pyrimidone dihydrochloride
Reaction of 5-(4-chlorobenzyl)-6-methyl-2-methylthio-4-pyrimidone (1.95 g) with 2-(5-methyl-4-imidazolylmethylthio)ethylamine (1.19 g) by the method described in Example I (ii) gave the title compound, m.p. 203°-206.5°. (Crystallised from ethanol).

reactant | 5-(4-chlorobenzyl)-6-methyl-2-methylthio-4-pyrimidone | 1.95 g | ClC1=CC=C(CC=2C(NC(=NC2C)SC)=O)C=C1 | C13H13ClN2OS
reactant | 2-(5-methyl-4-imidazolylmethylthio)ethylamine | 1.19 g | CC1=C(N=CN1)CSCCN | C7H13N3S
product | 2-[2-(5-Methyl-4-imidazolylmethylthio)ethylamino]-5-(4-chlorobenzyl)-6-methyl-4-pyrimidone dihydrochloride | Cl.Cl.CC1=C(N=CN1)CSCCNC1=NC(=C(C(N1)=O)CC1=CC=C(C=C1)Cl)C | InChI=1S/C19H22ClN5OS.2ClH/c1-12-16(9-14-3-5-15(20)6-4-14)18(26)25-19(24-12)21-7-8-27-10-17-13(2)22-11-23-17;;/h3-6,11H,7-10H2,1-2H3,(H,22,23)(H2,21,24,25,26);2*1H
